US04293674
trans-4,7-Octadienol (bp 100°-102° C./20 mm) was prepared in 92% yield by lithium aluminum hydride reduction of ethyl trans-4,7-octadienoate, which was prepared in 87% yield via the Claisen orthoester rearrangement of 1,5-hexadien-3-ol by the method of Johnson et al., J. Am. Chem. Soc., 92, 741 (1970).

reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl trans-4,7-octadienoate | C(CC\C=C\CC=C)(=O)OCC | C10H16O2
reactant | 1,5-hexadien-3-ol | C=CC(CC=C)O | C6H10O
product | trans-4,7-Octadienol | 92% yield | C(CC\C=C\CC=C)O | C8H14O
